US09085576B2
A round bottom flask was charged with 3-nitro-5-(trifluoromethyl)picolinamide (850 mg, 3.62 mmol) and wet 5 wt. % Pd/C (769 mg, 0.362 mmol) and was purged with nitrogen. EtOAc (72300 and then MeOH (72300 were added, and the flask was evacuated and filled with hydrogen. The reaction was stirred at RT under hydrogen atmosphere for 17 h. The mixture was filtered through Celite and washed with EtOAc and MeOH. The filtrate was concentrated to provide 3-amino-5-(trifluoromethyl)picolinamide (720 mg, 3.51 mmol, 97% yield) as a white solid. LC/MS (ESI+) m/z=206.1 (M+H).

reactant | 3-nitro-5-(trifluoromethyl)picolinamide | 3.62 mmol, 850 mg | [N+](=O)([O-])C=1C(=NC=C(C1)C(F)(F)F)C(=O)N | C7H4F3N3O3
catalyst | Pd/C | 0.362 mmol, 769 mg | [Pd] | Pd
product | 3-amino-5-(trifluoromethyl)picolinamide | 3.51 mmol, 720 mg, 97% yield | NC=1C(=NC=C(C1)C(F)(F)F)C(=O)N | C7H6F3N3O
